US07026324B2
A solution of (3-benzyloxycarbonylamino-propyl)-cyclopropylmethyl-carbamic acid tert-butyl ester (4.2 g, 0.012 mol) in ethanol (60 ml) was stirred in the presence of palladium on carbon (10%, 0.42 g) under a hydrogen atmosphere for 2 h. Filtration through celite and concentration gave (3-amino-propyl)-cyclopropylmethyl-carbamic acid tert-butyl ester; 1H NMR (CDCl3, 400 MHz) δ 3.35 (m, 2H), 3.08 (m, 2H), 2.70 (t, 2H, J=6.8 Hz), 1.67 (m, 2H), 1.46 (s, 9H), 1.30 (bs, 2H), 0.97 (m, 1H), 0.48 (m, 2H), 0.20 (q, 2H, J=5 Hz).

reactant | (3-benzyloxycarbonylamino-propyl)-cyclopropylmethyl-carbamic acid tert-butyl ester | 0.012 mol, 4.2 g | C(C)(C)(C)OC(N(CC1CC1)CCCNC(=O)OCC1=CC=CC=C1)=O | C20H30N2O4
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.42 g | [Pd] | Pd
product | (3-amino-propyl)-cyclopropylmethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1CC1)CCCN)=O | C12H24N2O2
